datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]#[N:2])([H:3])([H:4])[H:5].[O:6]>>[C:0]([C:1]#[N:2])([H:4])[H:5].[H:3][O:6],60.08224
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8](=[S:9])[H:13])[H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:13])[H:3].[C:6](=[C:7]([C:8]=[S:9])[H:12])([H:10])[H:11],53.8899
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4]([O:5][O:6])([H:17])[H:18])([H:15])[H:16])[O:7][O:8][H:19])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4]([O:5][O:6][H:15])([H:17])[H:18])[H:16])[O:7][O:8][H:19])([H:9])([H:10])[H:11],125.9384
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])=[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])([H:10])([H:11])[H:12].[c:22]1[c:23]([H:28])[c:24]([H:29])[c:25]([H:30])[c:26]([H:31])[c:27]1[H:32]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])[c:22]1[c:23]([H:28])[c:24]([H:29])[c:25]([H:30])[c:26]([H:31])[c:27]1[H:32])([H:10])([H:11])[H:12],1.96648
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:30]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:22][H:30],17.062352
[O:0]=[N+:1]([O-:2])[O:3][H:4].[O:5][H:6]>>[H:4][O:5][H:6].[O:0]=[N+:1]([O-:2])[O:3],-6.974728
[C:0](#[C:1][H:3])[H:2].[C:4](#[C:5][C:6]([C:7]([H:10])([H:11])[H:12])[C:8]([H:13])([H:14])[H:15])[H:9]>>[C:0](=[C:1][H:3])([H:2])[C:6]([C:5]#[C:4][H:9])([C:7]([H:10])([H:11])[H:12])[C:8]([H:13])([H:14])[H:15],39.0786
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])([H:15])[H:16])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[C:5]1([C:6]([H:18])[H:19])[H:17],48.9528
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[O:20][O:21]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8].[H:6][O:20][O:21],213.09112
[C:0](=[O:1])([H:2])[H:3].[C:4]([O:5])([H:6])([H:7])[H:8]>>[C:0]([O:1])([H:2])([H:3])[O:5][C:4]([H:6])([H:7])[H:8],33.30464
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[O:6][O:7]>>[C:0]([C:1]([H:4])[H:5])([H:2])([H:3])[O:6][O:7],132.214
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15](=[C:16]([C:17]([H:23])([H:24])[H:25])[C:18]([H:26])([H:27])[H:28])[H:22])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[C:15]([C:14]([H:19])([H:20])[H:21])([C:16]([C:17]([H:23])([H:24])[H:25])[C:18]([H:26])([H:27])[H:28])[H:22])[H:7])([H:5])[H:6],48.0742
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[C:14]([C:15](=[C:16]([H:20])[H:21])[H:19])([H:17])[H:18]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])[H:8])([H:4])([H:5])[H:6].[H:7][C:14]([C:15](=[C:16]([H:20])[H:21])[H:19])([H:17])[H:18],68.6176
[H:12].[O:0]([c:1]1[c:2]([H:8])[c:3][c:4]([H:9])[c:5]([H:10])[c:6]1[H:11])[H:7]>>[O:0]([c:1]1[c:2]([H:8])[c:3]([H:12])[c:4]([H:9])[c:5]([H:10])[c:6]1[H:11])[H:7],0.0
[C:0]([C:1]([C:2]([O:3][O:4][H:14])([C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])[H:13])([H:11])[H:12])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([O:3][O:4][H:14])([H:13])[C:5]([C:6]([H:16])([H:17])[H:18])([H:15])[O:7]1.[O:8][H:19],46.8608
[O-:1][N+:2](=[O:3])[H:4].[O:5]>>[N:2](=[O:3])[O:5].[O:1][H:4],9.87424
[C:0]([C:1]([N+:2](=[O:3])[O-:4])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10]>>[C:0]([C:1]([N+:2](=[O:3])[O-:4])([H:8])[H:9])([H:6])[H:7].[H:5][H:10],38.57648
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([H:17])([H:18])[H:19])[c:9]1[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]1[H:24])([H:15])[H:16]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:7]([C:6]([H:15])[H:16])([C:8]([H:17])([H:18])[H:19])[c:9]1[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]1[H:24])[H:3],56.2748
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([C:8]([H:14])([H:15])[H:16])[C:9](=[S:10])[H:17])([H:11])([H:12])[H:13]>>[C:0]([S:1][H:5])([H:3])[H:4].[H:2][C:7]([C:6]([H:11])([H:12])[H:13])([C:8]([H:14])([H:15])[H:16])[C:9](=[S:10])[H:17],92.048
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7]>>[C:0]([C:1]([C:2]([C:3]([O:4])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([O:5][H:14])([H:6])[H:7],68.1992
